US04863482
Preparation of 2,6-diamino-4-hydroxynitrobenzene
1 g of 2,6-diamino-4-methoxynitrobenzene prepared as in example 1 was heated in 3 ml of 66% hydrobromic acid for 15 minutes over a boiling water bath. Upon addition of water the desired product precipitated as the hydrobromate. This was taken up into suspension in water then dissolved by addition of concentrated soda in order to enable elimination of an insoluble impurity by filtration in the presence of animal charcoal. The desired product precipitated from the filtrate on addition of concentrated hydrochloric acid. After filtration and vacuum drying in the presence of P2O5, the product decomposed at 264° C.

reactant | 2,6-diamino-4-methoxynitrobenzene | 1 g | NC1=C(C(=CC(=C1)OC)N)[N+](=O)[O-] | C7H9N3O3
reactant | water | O | H2O
solvent | hydrobromic acid | 3 ml | Br | BrH
product | 2,6-diamino-4-hydroxynitrobenzene | NC1=C(C(=CC(=C1)O)N)[N+](=O)[O-] | C6H7N3O3
